US05202337
d) Tert.-butyl 5-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate
2.6 9 (10.3 mmol) of tert.-butyl 2-benzyl-5-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate in50 ml of ethanol are hydrogenated on 0.5 g of palladium/active carbon (10% Pd) at 130° C. and 100 bar. The catalyst is filtered off with suction, and the liquid phase is concentrated and distilled.

reactant | tert.-butyl 2-benzyl-5-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | C(C1=CC=CC=C1)N1C2CN(CC2(CC1)C)C(=O)OC(C)(C)C | C19H28N2O2
catalyst | palladium | 0.5 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Tert.-butyl 5-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | CC12CCNC2CN(C1)C(=O)OC(C)(C)C | C12H22N2O2
